US06187802B1
A mixture of 1-[1-(benzo[b]thiophen-2-yl)cyclobutyl]-2-bromoethanone (0.42 g), imidazolidine-2-thione (0.14 g), ethanol (15 ml) and acetic acid (10 ml) was heated under reflux for 18 hours then allowed to cool to ambient temperature. The solvents were removed in vacuo and the residue was triturated with ether (30 ml). The resulting solid was collected by filtration, dried in vacuo at 40° C. and crystallised from ethanol. The resulting product was collected by filtration, washed with ethanol (3 ml) and dried in vacuo at 40° C. to give 3-[1-(benzo[b]thiophen-2-yl)cyclobutyl]-5,6-dihydroimidazo[2,1-b]thiazole hydrobromide as an off-white solid (0.28 g), m.p. 240-242° C.

reactant | 1-[1-(benzo[b]thiophen-2-yl)cyclobutyl]-2-bromoethanone | 0.42 g | S1C2=C(C=C1C1(CCC1)C(CBr)=O)C=CC=C2 | C14H13BrOS
reactant | imidazolidine-2-thione | 0.14 g | N1C(NCC1)=S | C3H6N2S
reactant | ethanol | 15 ml | C(C)O | C2H6O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 3-[1-(benzo[b]thiophen-2-yl)cyclobutyl]-5,6-dihydroimidazo[2,1-b]thiazole hydrobromide | 0.28 g | Br.S1C2=C(C=C1C1(CCC1)C=1N3C(SC1)=NCC3)C=CC=C2 | InChI=1S/C17H16N2S2.BrH/c1-2-5-13-12(4-1)10-15(21-13)17(6-3-7-17)14-11-20-16-18-8-9-19(14)16;/h1-2,4-5,10-11H,3,6-9H2;1H
